US07507740B2
(i) Production of 5-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)pentyl acetate
A mixture of 4-chloro-5H-pyrrolo[3,2-d]pyrimidine (0.50 g), 5-bromopentyl acetate (0.71 mL), cesium carbonate (1.59 g) and N,N-dimethylformamide (5.0 mL) was stirred at 40° C. for 4 days. Water was added to the reaction system and the mixture was extracted with ethyl acetate. The organic layer washed with water and saturated brine and dried over magnesium sulfate. After concentration under reduced pressure, the residue was separated and purified by silica gel column chromatography (eluent, ethyl acetate:hexane=1:3→6:4) to give the title compound (637 mg) as a white solid.

reactant | 4-chloro-5H-pyrrolo[3,2-d]pyrimidine | 0.50 g | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | 5-bromopentyl acetate | 0.71 mL | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | cesium carbonate | 1.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)pentyl acetate | 637 mg | C(C)(=O)OCCCCCN1C=CC=2N=CN=C(C21)Cl | C13H16ClN3O2
